US07074837B2
(2S)-2-[1-(Diethoxymethyl)cyclopropyl]-2-{[(1S)-1-phenylethyl]amino}acetonitrile
In toluene (20 ml) was dissolved 1,1-cyclopropane dicarboaldehyde (1.96 g, 20 mmol). Under ice cooling and stirring, a solution of p-toluenesulfonate monohydrate (19.2 mg, 0.1 mmol) in ethanol (276 mg, 6.0 mmol), and then ethyl orthoformate (3.11 g, 21 mmol) were added. The mixture was stirred at the external temperature of 40° C. for 1 hour. After addition of a saturated aqueous solution (0.3 ml) of sodium bicarbonate to the reaction mixture, (S)-1-phenylethylamine (2.67 g, 22 mmol) was added under ice cooling and stirring. At the same temperature, stirring was conducted for 30 minutes. To the reaction mixture were successively added potassium cyanide (1.43 g, 22 mmol) and sodium bisulfite (3.12 g, 30 mmol). Then, water (20 ml) was added and the mixture was stirred at 50° C. for 2 hours. A saturated aqueous solution of sodium bicarbonate was added, followed by extraction with ethyl acetate. The organic layer was washed successively with water and saturated saline, dried over anhydrous sodium sulfate, filtered, and then evaporated under reduced pressure. The yellow oil thus obtained was subjected to chromatography on a silica gel column (silica gel: 100 g, hexane:ethyl acetate=from 10:1 to 5:1), whereby a mixture (3.86 g, 63.9%) of the title compound and its diastereomer, (2R)-2-[1-(diethoxymethyl)cyclopropyl]-2-{[(1S)-1-phenylethyl]amino}acetonitrile was obtained as colorless crystals. A formation ratio of these two diastereomers was found to be 2:1 based on the integral ratio of 1H-NMR (the title compound was a main product).

reactant | 1,1-cyclopropane dicarboaldehyde | 20 mmol, 1.96 g | C1(CC1)(C=O)C=O | C5H6O2
reactant | p-toluenesulfonate monohydrate | 0.1 mmol, 19.2 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | ethanol | 6.0 mmol, 276 mg | C(C)O | C2H6O
reactant | ethyl orthoformate | 21 mmol, 3.11 g | C(OCC)([O-])[O-]
reactant | sodium bicarbonate | 0.3 ml | C([O-])(O)=O.[Na+]
reactant | (S)-1-phenylethylamine | 22 mmol, 2.67 g | C1(=CC=CC=C1)[C@H](C)N | C8H11N
reactant | potassium cyanide | 22 mmol, 1.43 g | [C-]#N.[K+]
reactant | sodium bisulfite | 30 mmol, 3.12 g | S([O-])(O)=O.[Na+]
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hexane | CCCCCC | C6H14
solvent | water | 20 ml | O | H2O
product | (2S)-2-[1-(Diethoxymethyl)cyclopropyl]-2-{[(1S)-1-phenylethyl]amino}acetonitrile | C(C)OC(C1(CC1)[C@@H](C#N)N[C@@H](C)C1=CC=CC=C1)OCC | C18H26N2O2
